US07456164B2
Dimethyl-{4-[4-(4-pyrrolidin-1-ylbutoxy)phenyl]tetrahydro-pyran-4-ylmethyl}amine
4-(4-Dimethylaminomethyl-tetrahydro-pyran-4-yl)-phenol (1.5 g, 6.38 mmol), 1-bromo-4-chlorobutane (1.5 ml, 12.77 mmol), DMF (20 ml) and K2CO3 (3.5 g, 25.53 mmol) were reacted together according to general procedure B. Purification of a fraction of the crude (900 mg) by chromatography on alumina, eluant ethyl acetate:heptanes (12:88) provided a mixture of bromo and chloro phenoxy ether (220 mg) which was used in the next stage. The purified mixture (220 mg, 0.68 mmol) and pyrrolidine (0.17 ml, 2.03 mmol) were refluxed in EtOH (3 ml, 15 vol) overnight. The reaction was concentrated in vacuo and partitioned between 2M NaOH (10 ml) and ethyl acetate (10 ml). The aqueous was extracted with ethyl acetate (3×5 mL). The combined ethyl acetate layers were washed with brine (3×5 ml), dired over MgSO4, filtered, washed with ethyl acetate and concentrated in vacuo. Purification by chromatography on silica, eluant 95:3:2 (DCM:MeOH:NH3) followed by a second column eluting with DCM:MeOH:NH3 (96.5:3:0.5), gave the title compound as a colourless oil (134 mg, 55%). 1H NMR (400 MHz, CDCl3) δ7.21 (d, 2H), 6.86 (d, 2H), 3.97 (t, 2H), 3.75 (dt, 2H), 3.59-3.50 (m, 2H), 2.57-2.45 (m, 6H), 2.40 (s, 2H), 2.14-2.05 (m, 2H), 1.96 (s, 6H), 1.92-1.65 (m, 10H).

reactant | 4-(4-Dimethylaminomethyl-tetrahydro-pyran-4-yl)-phenol | 6.38 mmol, 1.5 g | CN(C)CC1(CCOCC1)C1=CC=C(C=C1)O | C14H21NO2
reactant | 1-bromo-4-chlorobutane | 12.77 mmol, 1.5 ml | BrCCCCCl | C4H8BrCl
reactant | K2CO3 | 25.53 mmol, 3.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | pyrrolidine | 2.03 mmol, 0.17 ml | N1CCCC1 | C4H9N
solvent | EtOH | 3 ml | CCO | C2H6O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | Dimethyl-{4-[4-(4-pyrrolidin-1-ylbutoxy)phenyl]tetrahydro-pyran-4-ylmethyl}amine | 134 mg, 55% | CN(CC1(CCOCC1)C1=CC=C(C=C1)OCCCCN1CCCC1)C | C22H36N2O2
